US06200980B1
3-Methyl-5-(2-n-propoxybenzamido)-1-n-propylpyrazole-4-carboxamide
The title compound was prepared from 2-n-propoxy-benzoyl chloride (5.33 g, 0.027 mol) and 5-amino-3-methyl-1-n-propylpyrazole-4-carboxamide (Preparation 6; 4.07 g, 0.022 mol) in pyridine (100 ml), following the procedure of Preparation 2, and was obtained as a white solid (5.84 g, 76%). A sample was crystallised from ethyl acetate-hexane, m.p. 111-113° C. Found: C, 62.83; H, 7.09; N, 16.26. C18H24N4O3 requires C, 62.77; H, 7.02; N, 16.27%.

reactant | 2-n-propoxy-benzoyl chloride | 0.027 mol, 5.33 g | C(CC)OC1=C(C(=O)Cl)C=CC=C1 | C10H11ClO2
reactant | 5-amino-3-methyl-1-n-propylpyrazole-4-carboxamide | 0.022 mol, 4.07 g | NC1=C(C(=NN1CCC)C)C(=O)N | C8H14N4O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 3-Methyl-5-(2-n-propoxybenzamido)-1-n-propylpyrazole-4-carboxamide | CC1=NN(C(=C1C(=O)N)NC(C1=C(C=CC=C1)OCCC)=O)CCC | C18H24N4O3
